US09255089B2
6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,4-trifluoro-1-hydroxy-1-(pyridin-2-yl)butyl)-1H-benzo[d]imidazol-2(3H)-one
(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone (50 mg, 0.14 mmol) was dissolved in dry THF (1.4 mL) and cooled to 0° C. (3,3,3-trifluoropropyl)magnesium bromide (0.5 M, 0.55 mL, 0.28 mmol) was added dropwise and the reaction was allowed to stir for 10 mins and then quenched with water. Reaction was extracted three times with EtOAc and combined organic layers were washed once with water and concentrated. Residue was taken up in EtOH (1.5 mL) and 4.0M HCl/dioxane (0.75 mL), heated to 65° C. for two hours, concentrated, then purified by reverse-phase HPLC to afford the desired product as a white powder.

reactant | (6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone | 0.14 mmol, 50 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(=N2)OCC)C1)C(=O)C1=NC=CC=C1)C | C20H18N4O3
reactant | (3,3,3-trifluoropropyl)magnesium bromide | 0.28 mmol, 0.5 M, 0.55 mL | FC(CC[Mg]Br)(F)F
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | 6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,4-trifluoro-1-hydroxy-1-(pyridin-2-yl)butyl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(CCC(F)(F)F)(C1=NC=CC=C1)O)C | C21H19F3N4O3
